US06774130B2
6-Amino-1-benzyl-5-bromouracil (134 g) was stirred with 40% aqueous methylamine solution (750 ml) for 24 hours. After cooling to 5° C., the precipitate was filtered and dried under suction to provide 6-amino-1-benzyl-5-methylaminouracil (55 g).

reactant | 6-Amino-1-benzyl-5-bromouracil | 134 g | NC1=C(C(NC(N1CC1=CC=CC=C1)=O)=O)Br | C11H10BrN3O2
reactant | methylamine | 750 ml | CN | CH5N
product | 6-amino-1-benzyl-5-methylaminouracil | 55 g | NC1=C(C(NC(N1CC1=CC=CC=C1)=O)=O)NC | C12H14N4O2
